US04256898
To 710 mg (2.3 mmole) of 3-chloro-4,5-dihydro-α-phthalimido-5-isoxazole acetic acid in 15 ml of water is added 260 μl of hydrazine hydrate and the solution stirred at 50° for 7 hours. After cooling, the solution is adjusted to pH 5.5 with acetic acid (80 μl), filtered, and the precipitate washed with 13 ml water. The filtrate is diluted with 200 ml of 2-butanol and allowed to crystallized in the refrigerator for 18 hours. Filtration yielded 240 mg of (αS,5S)-α-amino-3-chloro-4,5-dihydro-5-isoxazole acetic acid; concentrating the mother liquors approximately 15% afforded 50 mg of a second crop of (αS,5S)-α-amino-3-chloro-4,5-dihydro-5-isoxazole acetic acid (71%).

reactant | 3-chloro-4,5-dihydro-α-phthalimido-5-isoxazole acetic acid | 2.3 mmole, 710 mg | ClC1=NOC(C1)C(C(=O)O)N1C(C=2C(C1=O)=CC=CC2)=O | C13H9ClN2O5
reactant | hydrazine hydrate | 260 μl | O.NN
reactant | acetic acid | 80 μl | C(C)(=O)O | C2H4O2
solvent | water | 15 ml | O | H2O
product | (αS,5S)-α-amino-3-chloro-4,5-dihydro-5-isoxazole acetic acid | 240 mg | N[C@H](C(=O)O)[C@@H]1CC(=NO1)Cl | C5H7ClN2O3
